US07517996B2
(Step 2) Synthesis of tert-butyl 3-hydroxy-3-(4-{[(3-methoxy-3-oxopropyl)thio]-methyl}phenyl)propionate
To a solution (40 ml) of tert-butyl 3-(tert-butyldimethylsilyl)oxy-3-(4-chloromethylphenyl)propionate (3.25 g, 8.44 mmol) in chloroform were added methyl 3-mercaptopropionate (1.12 g, 9.32 mmol), triethylamine (2.4 ml, 17.29 mmol), and tetrabutylammonium iodide (156 mg, 0.42 mmol), and the mixture was stirred overnight at 50° C. The solvent was evaporated under reduced pressure and water was added. The mixture was extracted with ethyl acetate, and the extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure again. The obtained crude product was dissolved in THF (35 ml), 1M tetrabutylammonium fluoride-THF solution (8.5 ml, 8.50 mmol) was added, and the mixture was stirred at room temperature for 4 hours. The solvent was evaporated under reduced pressure, water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the obtained crude product was purified by silica gel chromatography (hexane:ethyl acetate=3:1) to give the title compound (711 mg, 24%).

reactant | tert-butyl 3-(tert-butyldimethylsilyl)oxy-3-(4-chloromethylphenyl)propionate | 8.44 mmol, 40 ml, 3.25 g | [Si](C)(C)(C(C)(C)C)OC(CC(=O)OC(C)(C)C)C1=CC=C(C=C1)CCl | C20H33ClO3Si
reactant | methyl 3-mercaptopropionate | 9.32 mmol, 1.12 g | SCCC(=O)OC | C4H8O2S
reactant | triethylamine | 17.29 mmol, 2.4 ml | C(C)N(CC)CC | C6H15N
reactant | tetrabutylammonium fluoride THF | 8.50 mmol, 1M, 8.5 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.C1CCOC1
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | tetrabutylammonium iodide | 0.42 mmol, 156 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 35 ml | C1CCOC1 | C4H8O
product | tert-butyl 3-hydroxy-3-(4-{[(3-methoxy-3-oxopropyl)thio]-methyl}phenyl)propionate | 711 mg, 24% | OC(CC(=O)OC(C)(C)C)C1=CC=C(C=C1)CSCCC(=O)OC | C18H26O5S
